US04319913
Chloroacetyl chloride (0.8 g, 0.0072 mol) was added to a suspension of 1-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (1.5 g, 0.00656 mol) and 1,5-diazabicyclo[5.4.0]undec-5-ene in 25 ml. of tetrahydrofuran with constant stirring. The reaction mixture was heated at reflux for 30 minutes, then stirred for 16 hours at 26° C. The reaction mixture was concentrated using a rotary evaporator and the residue was partitioned between chloroform and water. The chloroform layer was separated, and washed with 5% hydrochloric acid, a 5% sodium bicarbonate solution and then with water. The chloroform layer was dried over magnesium sulfate, concentrated in vacuo and the resulting residue was slurried in anhydrous ether to yield a crystalline solid. The crystalline solid was further purified using a silica gel column with ethyl acetate as the eluant. Fractions containing the benzazaphosphole were combined and concentrated in vacuo to produce a crude product. The crude product was slurried in diethyl ether to yield 1-phenyl-2-chloroacetyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (0.9 g, 45% yield) as a solid having a melting point of 167°-169° C. and the following analysis:

reactant | Chloroacetyl chloride | 0.0072 mol, 0.8 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 1-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 0.00656 mol, 1.5 g | C1(=CC=CC=C1)P1(NCC2=C1C=CC=C2)=O | C13H12NOP
reactant | 1,5-diazabicyclo[5.4.0]undec-5-ene | N12CCCN=CC2CCCC1 | C9H16N2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-phenyl-2-chloroacetyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 0.9 g, 45% yield | C1(=CC=CC=C1)P1(N(CC2=C1C=CC=C2)C(CCl)=O)=O | C15H13ClNO2P
